US05118708
A) Preparation of 5-(2,4-Dichlorophenyl)-2-furanoyl Chloride
A solution of 28.28 g (0.11 moles) of 5-(2,4-dichlorophenyl)-2-furancarboxylic acid in 43 ml of thionyl chloride is heated at reflux for 3 hours. The solvent is removed and the residue is treated with 100 ml of toluene. The solvent is removed and the residue is carried on directly to the next step of the reaction.

reactant | 5-(2,4-dichlorophenyl)-2-furancarboxylic acid | 0.11 moles, 28.28 g | ClC1=C(C=CC(=C1)Cl)C1=CC=C(O1)C(=O)O | C11H6Cl2O3
reactant | thionyl chloride | 43 ml | S(=O)(Cl)Cl | Cl2OS
product | 5-(2,4-Dichlorophenyl)-2-furanoyl Chloride | ClC1=C(C=CC(=C1)Cl)C1=CC=C(O1)C(=O)Cl | C11H5Cl3O2
